US08076329B2
A mixture of 2-chloro-4-(4-methoxyphenyl)pyridine (660 mg) and bis(triphenyl-phosphine)nickeldichloride (200 mg) in anhydrous tetrahydrofuran (7.5 mL) is cooled to a temperature close to 0° C. A solution of methylmagnesiumbromide in tetrahydrofuran (2.6 M, 2 mL) is added slowly. The mixture is stirred at room temperature for two hours, concentrated under reduced pressure and dissolved in methyl tert-butyl ether (10 mL). Alkaloids are extracted with a 3N aqueous solution of hydrochloric acid (3 times 10 mL). Extracts are pooled, alkalinised and back extracted with methyl tert-butyl ether (3 times 20 mL) and dichloromethane (30 mL). Organic phases are dried over magnesium sulphate, concentrated under reduced pressure and purified over silica gel (eluent dichloromethane/methanol from 100/0 to 95/5). Fraction containing the expected product are pooled and concentrated under reduced pressure to give 385 mg of 4-(4-methoxyphenyl)-2-methylpyridine as a clear brown powder used without further purification.

reactant | 2-chloro-4-(4-methoxyphenyl)pyridine | 660 mg | ClC1=NC=CC(=C1)C1=CC=C(C=C1)OC | C12H10ClNO
reactant | methylmagnesiumbromide | C[Mg]Br
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.6 M, 2 mL | O1CCCC1 | C4H8O
product | 4-(4-methoxyphenyl)-2-methylpyridine | 385 mg | COC1=CC=C(C=C1)C1=CC(=NC=C1)C | C13H13NO
